US07053107B2
N-Isopropoxy-2-[3-((E)-2-pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzamide
A solution of 2-[3-(2-Pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzoic acid (50.0 mg, 0.084 mmol), O-isopropyl-hydroxylamine hydrochloride (18.7 mg, 0.17 mmol), triethylamine(58 μl, 0.42 mmol), dissolved in DMF (0.8 mL), was treated with HATU (48 mg, 0.13 mmol). The mixture was stirred overnight, then purified by reverse phase HPLC yielding 17.4 mg (50%) of the title compound as a yellow solid. 1H NMR (DMSO-d6): δ 9.23 (1H, s), 8.69 (H, d, J=2.1), 8.03 (4H, m), 7.50 (5H, m), 7.23 (1H, s), 7.04 (1H, d, J=6.7 Hz), 6.92 (1H, m), 5.98 (1H, m), 4.13 (1H, m), 1.29 (6H, d, J=8.1). ESIMS (M+H+): 414.1.

reactant | 2-[3-(2-Pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzoic acid | 0.084 mmol, 50.0 mg | N1=C(C=CC=C1)C=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C21H16N4O2
reactant | O-isopropyl-hydroxylamine hydrochloride | 0.17 mmol, 18.7 mg | Cl.C(C)(C)ON
reactant | triethylamine | 0.42 mmol, 58 μl | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.13 mmol, 48 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | N-Isopropoxy-2-[3-((E)-2-pyridin-2-yl-vinyl)-1H-indazol-6-ylamino]-benzamide | 17.4 mg, 50% | C(C)(C)ONC(C1=C(C=CC=C1)NC1=CC=C2C(=NNC2=C1)\C=C\C1=NC=CC=C1)=O | C24H23N5O2
